US07741320B2
Step D: 6,7-dichloro-4-cyclopropyl-3,4-dihydro-2H-1,2,4-benzothiadiazine 1,1-dioxide
Finely ground NaBH4 (1 g) is added to a solution of 6,7-dichloro-4-cyclopropyl-4H-1,2,4-benzothiadiazine 1,1-dioxide from the Step above (1.9 g) in isopropanol (50 mL) and then heated at 50-55° C. for 5-10 minutes. The solvent is removed by evaporation under reduced pressure. The residue is taken up in water (50 mL) and brought to acid pH by adding 6N HCl. The title product is extracted with dichloromethane (3×30 mL). The organic phase is dried over MgSO4 and filtered. The filtrate is evaporated to dryness and the residue obtained is recrystallised from methanol/water 1/1 (60 mL).

reactant | NaBH4 | 1 g | [BH4-].[Na+]
reactant | 6,7-dichloro-4-cyclopropyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C(=CC2=C(N(C=NS2(=O)=O)C2CC2)C1)Cl | C10H8Cl2N2O2S
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 6,7-dichloro-4-cyclopropyl-3,4-dihydro-2H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C(=CC2=C(N(CNS2(=O)=O)C2CC2)C1)Cl | C10H10Cl2N2O2S
